US07994185B2
N-{2-fluoro-3-[5-(2-methyl-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide
Following a procedure analogous to the procedure described in Example 25 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-furansulfonamide (200 mg, 0.384 mmol)mmol) and dimethylzinc (384 μl, 0.768 mmol) at 80° C. for 3 hours, the title compound was obtained as a solid (60 mg, 31% yield). MS (ESI): 500.8 [M+H]+

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-furansulfonamide | 0.384 mmol, 200 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=COC=C1)F | C22H18ClFN4O4S2
reactant | dimethylzinc | 0.768 mmol, 384 μl | C[Zn]C
product | N-{2-fluoro-3-[5-(2-methyl-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide | FC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)C)C1CCOCC1)NS(=O)(=O)C1=COC=C1 | C23H21FN4O4S2
